US06447656B1
16-Iodohexadecanoic Acid (6)
16-Hexadecanolide (5.0 g, 0.02 mol) was added to a mixture of HI (30 g) and acetic acid (20 g). The mixture was heated to 100° C. overnight. After cooling it was poured into a cold sodium thiosulphate solution (150 mL, 10%) and extracted using CH2Cl2. The combined organic extracts were dried (MgSO4) and evaporated to give a white solid. The crude product was recrystallised from diethyl ether. Yield: 4.8 g (64%)

reactant | 16-Hexadecanolide | 0.02 mol, 5.0 g | C1(CCCCCCCCCCCCCCCO1)=O | C16H30O2
reactant | HI | 30 g | I | HI
reactant | sodium thiosulphate | 150 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 20 g | C(C)(=O)O | C2H4O2
product | 16-Iodohexadecanoic Acid | ICCCCCCCCCCCCCCCC(=O)O | C16H31IO2
